US05164511
The 5-carboxyaldehyde-1-methyl-4-(phenylmethyl)thioimidazole intermediate which is a reactant for the above step (a) can be prepared by steps comprising condensing 1-methyl-4-(phenylmethyl)thioimidazole with formaldehyde under weakly acidic conditions to form 5-hydroxymethyl-1-methyl-4-(phenylmethyl)thioimidazole and oxidizing to form said reactant or by directly formylating 1-methyl-4-(phenylmethyl)thioimidazole to form said reactant.

reactant | 1-methyl-4-(phenylmethyl)thioimidazole | CN1C=NC(=C1)SCC1=CC=CC=C1 | C11H12N2S
reactant | formaldehyde | C=O | CH2O
product | 5-hydroxymethyl-1-methyl-4-(phenylmethyl)thioimidazole | OCC1=C(N=CN1C)SCC1=CC=CC=C1 | C12H14N2OS
